US06559145B2
5-(3-(Tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2-pyridinylamine [AA.1].
2-(2-Propynyloxy)tetrahydro-2H-pyran (360 mg), 5-iodo-2-pyridinylamine (440 mg), CuI (140 mg) and dichlorobis(triphenylphosphine)palladium (60 mg) are dissolved in diethylamine (10 mL). After the mixture is stirred for 1 h at room temperature, water (40 mL) and CH2Cl2 (80 mL) are added. The organic layer is separated, dried (MgSO4) and concentrated. The resulting residue is purified on a silica gel plate (CH2Cl2/methanol, 9/1) to give 230 mg (50%) of the title compound as an oil which slowly solidifies. MS (ESI+) m/z 233 (M+H)+. 1H NMR (CDCl3) δ 8.10, 7.60, 6.65, 5.90, 4.86, 4.48, 3.90, 3.5-3.6, 1.55-1.9.

reactant | 2-(2-Propynyloxy)tetrahydro-2H-pyran | 360 mg | C(C#C)OC1OCCCC1 | C8H12O2
reactant | 5-iodo-2-pyridinylamine | 440 mg | IC=1C=CC(=NC1)N | C5H5IN2
reactant | water | 40 mL | O | H2O
reactant | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
catalyst | CuI | 140 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(3-(Tetrahydro-2H-pyran-2-yloxy)-1-propynyl)-2-pyridinylamine | 230 mg, 50% | O1C(CCCC1)OCC#CC=1C=CC(=NC1)N | C13H16N2O2
